US06168838A
9-Fluoro-2,7-dihexyloxy-9,10-dihydrophenanthrene
From 2,7-dihexyloxy-9,10-dihydrophenanthren-9-ol by reaction with DAST in abs. dichloromethane.

reactant | 2,7-dihexyloxy-9,10-dihydrophenanthren-9-ol | C(CCCCC)OC1=CC=2CC(C3=CC(=CC=C3C2C=C1)OCCCCCC)O | C26H36O3
reactant | DAST | CCN(CC)S(F)(F)F | C4H10F3NS
solvent | dichloromethane | ClCCl | CH2Cl2
product | 9-Fluoro-2,7-dihexyloxy-9,10-dihydrophenanthrene | FC1C2=CC(=CC=C2C=2C=CC(=CC2C1)OCCCCCC)OCCCCCC | C26H35FO2
